US09062028B2
Step A. Ethyl 2-(4-bromo-1H-pyrazol-1-yl)-2-methylpropanoate
The title compound was prepared using a procedure analogous to methyl 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzoate except that methyl 3-(bromomethyl)benzoate was replaced with ethyl 2-bromo-2-methylpropanoate. LCMS, [M+H]+=261.0.

reactant | methyl 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzoate | BrC=1C=NN(C1)CC=1C=C(C(=O)OC)C=CC1 | C12H11BrN2O2
reactant | methyl 3-(bromomethyl)benzoate | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | ethyl 2-bromo-2-methylpropanoate | BrC(C(=O)OCC)(C)C | C6H11BrO2
product | Ethyl 2-(4-bromo-1H-pyrazol-1-yl)-2-methylpropanoate | BrC=1C=NN(C1)C(C(=O)OCC)(C)C | C9H13BrN2O2
